US07056934B2
2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-2H-pyrazole-3-carboxylic acid ethyl ester
Ethyl-pyrazole-3-carboxylate (980 mg, 7.0 mmol), 2-(2-bromoethoxy)-tetrahydro-2H-pyran (1.57 g, 7.5 mmol), potassium carbonate (1.01 g, 7.3 mmol) and lithium iodide (46.8 mg, 0.35 mmol) were dissolved in 1-methyl-2-pyrrolidinone (10 mL) and the reaction mixture heated to 80° C. for 24 hours. The reaction mixture was allowed to cool for 17 hours and then diluted with a mixture of ethyl acetate:water 1:1 (500 mL). The organic layer was washed with water (3×250 mL), dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with cyclohexane:ethyl acetate 90:10 to 80:20 to 75:25 to 50:50. The appropriate fractions were combined and concentrated in vacuo to yield the title product.

reactant | Ethyl-pyrazole-3-carboxylate | 7.0 mmol, 980 mg | C(C)OC(=O)C1=NNC=C1 | C6H8N2O2
reactant | 2-(2-bromoethoxy)-tetrahydro-2H-pyran | 7.5 mmol, 1.57 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 7.3 mmol, 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 0.35 mmol, 46.8 mg | [I-].[Li+]
solvent | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate water | 500 mL | C(C)(=O)OCC.O
product | 2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=CC1)CCOC1OCCCC1 | C13H20N2O4
